US05266728
95.0 g (382 mmol) of the Diels-Alder adduct obtained in the above step was dissolved in 950 ml of tetrahydrofuran, 103 g (1.57 mol) of potassium hydroxide (85%) in 760 ml of water was added on ice cooling, and the mixture was stirred at room temperature for 24 hours. After tetrahydrofuran was distilled off from the reaction mixture, the residue was neutralized with 138 ml of concentrated hydrochloric acid, and the solution was extracted with a mixture solvent of hexane-methylene chloride (98:2) (200 ml×4). The extract was dried over anhydrous magnesium sulfate and filtered, the distilled off, and 45.0 g of crude 5-norbornene-2-carboxylic acid was obtained. Crude yield: 83%.

reactant | potassium hydroxide | 1.57 mol, 103 g | [OH-].[K+]
reactant | tetrahydrofuran | 950 ml | O1CCCC1 | C4H8O
solvent | water | 760 ml | O | H2O
product | 5-norbornene-2-carboxylic acid | 45.0 g | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
